US07262212B2
2,4-Dinitro-1H-imidazole (0.678 g, 3.92 mmol) and phenyl oxiran-2-ylmethylcarbamate (1.04 g, 5.87 mmol) were dissolved in ethanol (20 ml). To the solution, sodium acetate (0.386 g, 4.70 mmol) was added followed by stirring under reflux overnight. To the reaction mixture, a saturated sodium hydrogencarbonate solution and methylene chloride were added, and the solution was extracted with methylene chloride. The organic phase was dried over sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (methylene chloride/methanol=50/1) and treated with diisopropyl ether to afford ethyl (6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethyl)carbamate (0.116 g, yield 11.6%) as a light brown solid.

reactant | 2,4-Dinitro-1H-imidazole | 3.92 mmol, 0.678 g | [N+](=O)([O-])C=1NC=C(N1)[N+](=O)[O-] | C3H2N4O4
reactant | phenyl oxiran-2-ylmethylcarbamate | 5.87 mmol, 1.04 g | O1C(C1)CNC(OC1=CC=CC=C1)=O | C10H11NO3
reactant | sodium acetate | 4.70 mmol, 0.386 g | C(C)(=O)[O-].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | ethyl (6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethyl)carbamate | 0.116 g, yield 11.6% | [N+](=O)([O-])C=1N=C2OC(CN2C1)CNC(OCC)=O | C9H12N4O5
